*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 3.9
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_0 1 2 3 4 REF
C_C1 1 REF 0.3541011385089pf
C_C2 1 2 16.480053353179pf
C_C3 1 4 0.2636235089205pf
C_C4 2 REF 0.5596034147574pf
C_C5 2 3 0.1644830684729pf
C_C6 3 REF 0.3913571331048pf
C_C7 3 4 7.1758882321173pf
C_C8 4 REF 0.4138921089903pf
L_L1 3 5 1.3051458481923nh
R_RL1 5 4 -1.432526551e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_1 1 2 3 4 REF
C_C1 1 REF 0.3616252651926pf
C_C2 1 2 16.577355750372pf
C_C3 1 4 0.2543139757699pf
C_C4 2 REF 0.5703252700003pf
C_C5 2 3 0.1467673046944pf
C_C6 3 REF 0.3977896287821pf
C_C7 3 4 5.3119216447052pf
C_C8 4 REF 0.4070063865001pf
L_L1 3 5 1.3066661362145nh
R_RL1 5 4 4.4505912228e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_2 1 2 3 4 REF
C_C1 1 REF 0.3580251037985pf
C_C2 1 2 16.70292022544pf
C_C3 1 4 0.2476093571693pf
C_C4 2 REF 0.5701980134443pf
C_C5 2 3 0.1342486335958pf
C_C6 3 REF 0.4015481191324pf
C_C7 3 4 4.0115488320796pf
C_C8 4 REF 0.4028184846514pf
L_L1 3 5 1.3079356293761nh
R_RL1 5 4 2.6905328923e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_3 1 2 3 4 REF
C_C1 1 REF 0.3471066900609pf
C_C2 1 2 16.901588047432pf
C_C3 1 4 0.2421264967057pf
C_C4 2 REF 0.5640364301393pf
C_C5 2 3 0.1235931502062pf
C_C6 3 REF 0.4040318474114pf
C_C7 3 4 2.8938888080989pf
C_C8 4 REF 0.3998864825833pf
L_L1 3 5 1.3092207063252nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_4 1 2 3 4 REF
C_C1 1 REF 0.3325040424827pf
C_C2 1 2 17.1944461555pf
C_C3 1 4 0.2387262917354pf
C_C4 2 REF 0.5556438372798pf
C_C5 2 3 0.1155067073274pf
C_C6 3 REF 0.4053436490199pf
C_C7 3 4 1.999474751192pf
C_C8 4 REF 0.3981797226068pf
L_L1 3 5 1.3104989748305nh
R_RL1 5 4 -1.509749563e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_5 1 2 3 4 REF
C_C1 1 REF 0.3195233547494pf
C_C2 1 2 17.552160115915pf
C_C3 1 4 0.2381134180985pf
C_C4 2 REF 0.5495140431841pf
C_C5 2 3 0.1108846924246pf
C_C6 3 REF 0.4057287735185pf
C_C7 3 4 1.4087278765042pf
C_C8 4 REF 0.3975355811806pf
L_L1 3 5 1.3115252377072nh
R_RL1 5 4 -3.421179645e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_6 1 2 3 4 REF
C_C1 1 REF 0.309031237102pf
C_C2 1 2 17.97803736849pf
C_C3 1 3 0.0104618173466pf
C_C4 1 4 0.2397479679919pf
C_C5 2 REF 0.546574341926pf
C_C6 2 3 0.1086009423992pf
C_C7 3 REF 0.4057001336838pf
C_C8 3 4 1.0048938354747pf
C_C9 4 REF 0.3974067765144pf
L_L1 3 5 1.3123655716065nh
R_RL1 5 4 -5.02877192e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_7 1 2 3 4 REF
C_C1 1 REF 0.29951821058pf
C_C2 1 2 18.572053833321pf
C_C3 1 3 0.0113170634652pf
C_C4 1 4 0.2440919082605pf
C_C5 2 REF 0.5469386208155pf
C_C6 2 3 0.1080344828463pf
C_C7 3 REF 0.4054622350046pf
C_C8 3 4 0.6834131703023pf
C_C9 4 REF 0.3975472666532pf
L_L1 3 5 1.3131549638066nh
R_RL1 5 4 -6.503074837e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_8 1 2 3 4 REF
C_C1 1 REF 0.2909659236807pf
C_C2 1 2 19.377504877023pf
C_C3 1 3 0.0104698722343pf
C_C4 1 4 0.2516486819303pf
C_C5 2 REF 0.5511023543103pf
C_C6 2 3 0.1092734414756pf
C_C7 3 REF 0.4051303617635pf
C_C8 3 4 0.4365320313994pf
C_C9 4 REF 0.3978304577132pf
L_L1 3 5 1.313896257813nh
R_RL1 5 4 -7.745781113e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_9 1 2 3 4 REF
C_C1 1 REF 0.2826233152678pf
C_C2 1 2 20.48070748059pf
C_C3 1 4 0.2633277144221pf
C_C4 2 REF 0.5594394666558pf
C_C5 2 3 0.1125250788158pf
C_C6 3 REF 0.4047801080262pf
C_C7 3 4 0.2551736631879pf
C_C8 4 REF 0.3981614747445pf
L_L1 3 5 1.3145500368674nh
R_RL1 5 4 -8.559909111e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_10 1 2 3 4 REF
C_C1 1 REF 0.2731971257864pf
C_C2 1 2 21.97073083648pf
C_C3 1 4 0.2799081976229pf
C_C4 2 REF 0.5718362295464pf
C_C5 2 3 0.1178785707769pf
C_C6 3 REF 0.4044521129193pf
C_C7 3 4 0.1243511679087pf
C_C8 4 REF 0.3984747618863pf
L_L1 1 5 99.083508132927nh
R_RL1 5 2 6.3632967124777
L_L2 3 6 1.315130190822nh
R_RL2 6 4 -8.844595322e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_11 1 2 3 4 REF
C_C1 1 REF 0.2608142537211pf
C_C2 1 2 24.026486660117pf
C_C3 1 4 0.3031363448035pf
C_C4 2 REF 0.588838755031pf
C_C5 2 3 0.1257758416034pf
C_C6 3 REF 0.4041511804399pf
C_C7 3 4 0.0327963619095pf
C_C8 4 REF 0.3987459665044pf
L_L1 1 5 59.515888499373nh
R_RL1 5 2 5.0550785569485
L_L2 3 6 1.3155891836103nh
R_RL2 6 4 -8.46705916e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_12 1 2 3 4 REF
C_C1 1 REF 0.2433409611002pf
C_C2 1 2 26.872539135005pf
C_C3 1 4 0.3351796577566pf
C_C4 2 REF 0.6113611467212pf
C_C5 2 3 0.1367833193314pf
C_C6 3 REF 0.4038615636078pf
C_C7 4 REF 0.398983423268pf
L_L1 1 5 33.85759720338nh
R_RL1 5 2 2.8248321147294
L_L2 3 6 1.31568048386nh
R_RL2 6 4 -7.349619773e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_13 1 2 3 4 REF
C_C1 1 REF 0.2172424289706pf
C_C2 1 2 30.975284981315pf
C_C3 1 4 0.3808150969509pf
C_C4 2 REF 0.6422127755079pf
C_C5 2 3 0.152348034765pf
C_C6 3 REF 0.4035555648387pf
C_C7 4 REF 0.3992230691659pf
R_R1 1 2 -857.6188970651
L_L1 1 5 38.796973229675nh
R_RL1 5 2 30.338140810956
L_L2 3 6 1.3154106221797nh
R_RL2 6 4 -5.857844371e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_14 1 2 3 4 REF
C_C1 1 REF 0.177355751613pf
C_C2 1 2 37.069189497279pf
C_C3 1 4 0.4476897444679pf
C_C4 2 REF 0.686236721272pf
C_C5 2 3 0.1748638605967pf
C_C6 3 REF 0.4032006103734pf
C_C7 4 REF 0.3995309117341pf
R_R1 1 2 -548.2147416559
L_L1 1 5 14.505994505673nh
R_RL1 5 2 2.1495024939068
L_L2 3 6 1.3149586374726nh
R_RL2 6 4 -3.349377766e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_15 1 2 3 4 REF
C_C1 1 REF 0.1121306822787pf
C_C2 1 2 46.848759117764pf
C_C3 1 4 0.5538449375593pf
C_C4 2 REF 0.7549988617487pf
C_C5 2 3 0.2101950512163pf
C_C6 3 REF 0.4027422325293pf
C_C7 4 REF 0.4000403992587pf
R_R1 1 2 -371.6375025867
L_L1 1 5 7.9424445810739nh
R_RL1 5 2 0.8511187467507
L_L2 3 6 1.3141926597897nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_16 1 2 3 4 REF
C_C1 1 2 65.534275879561pf
C_C2 1 4 0.755448711071pf
C_C3 2 REF 0.8843613427154pf
C_C4 2 3 0.2768807321709pf
C_C5 3 REF 0.4020262993563pf
C_C6 4 REF 0.4011294420473pf
R_R1 1 2 -250.6402129439
L_L1 1 5 3.594309689076nh
R_RL1 5 2 0.2871389195232
L_L2 3 6 1.3127523472715nh
R_RL2 6 4 2.3260696324e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_17 1 2 3 4 REF
C_C1 1 2 109.67258775667pf
C_C2 1 4 1.2306894063806pf
C_C3 2 REF 1.1875403088009pf
C_C4 2 3 0.4337357827196pf
C_C5 3 REF 0.4006360715202pf
C_C6 4 REF 0.4040170893714pf
R_R1 1 2 -158.8822958471
L_L1 1 5 1.3818241419215nh
R_RL1 5 2 0.089711622301
L_L2 1 6 61.46769374654nh
R_RL2 6 3 0.0542631539157
L_L3 1 7 60.730427710473nh
R_RL3 7 4 0.0547813078177
L_L4 2 8 61.563655818248nh
R_RL4 8 3 0.004936565953
L_L5 2 9 60.829419882103nh
R_RL5 9 4 0.0047587556678
L_L6 3 10 1.3094464297782nh
R_RL6 10 4 4.9796934438e-5
Kn_K1 L_L1 L_L2 0.0697612964269
Kn_K2 L_L1 L_L3 0.0700180838032
Kn_K3 L_L1 L_L4 -0.080111161096
Kn_K4 L_L1 L_L5 -0.080758448937
Kn_K5 L_L2 L_L3 0.9893022405829
Kn_K6 L_L2 L_L4 0.9887688207693
Kn_K7 L_L2 L_L5 0.9779825405246
Kn_K8 L_L2 L_L6 -0.114066866601
Kn_K9 L_L3 L_L4 0.9780409307578
Kn_K10 L_L3 L_L5 0.9886328888991
Kn_K11 L_L3 L_L6 0.0320815940231
Kn_K12 L_L4 L_L5 0.9893191049792
Kn_K13 L_L4 L_L6 -0.113809190219
Kn_K14 L_L5 L_L6 0.032225235466
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_18 1 2 3 4 REF
C_C1 1 2 275.71289410927pf
C_C2 1 4 3.0180126192685pf
C_C3 2 REF 2.324139781115pf
C_C4 2 3 1.0229083662392pf
C_C5 3 REF 0.3962191555064pf
C_C6 4 REF 0.4157957203647pf
R_R1 1 2 -83.38901929775
L_L1 1 5 48.328763722795nh
R_RL1 5 REF -0.028766662571
L_L2 1 6 0.3726753733905nh
R_RL2 6 2 0.0157745629152
L_L3 1 7 19.366166883585nh
R_RL3 7 3 0.0091972116885
L_L4 1 8 18.679297880387nh
R_RL4 8 4 0.0094877538871
L_L5 2 9 48.043744432872nh
R_RL5 9 REF -0.012426717744
L_L6 2 10 19.433826334648nh
R_RL6 10 3 0.0010872372767
L_L7 2 11 18.751062570794nh
R_RL7 11 4 9.5474290331e-4
L_L8 3 12 67.253676840006nh
R_RL8 12 REF -0.020219565659
L_L9 3 13 1.2971825432714nh
R_RL9 13 4 6.6450160952e-5
L_L10 4 14 66.557604692851nh
R_RL10 14 REF -0.020059096525
Kn_K1 L_L1 L_L2 0.0774865155405
Kn_K2 L_L1 L_L5 0.996137326517
Kn_K3 L_L1 L_L8 0.8438352789683
Kn_K4 L_L1 L_L10 0.8481551632061
Kn_K5 L_L2 L_L3 0.0567682272741
Kn_K6 L_L2 L_L4 0.0570245660682
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081810402911
Kn_K9 L_L2 L_L7 -0.084063006119
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9660618641725
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9903964687445
Kn_K15 L_L3 L_L7 0.9562083292072
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.197924963119
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9564819650225
Kn_K21 L_L4 L_L7 0.990045319976
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0619929335109
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8432323802718
Kn_K26 L_L5 L_L10 0.8475125810736
Kn_K27 L_L6 L_L7 0.966183365741
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.197171305013
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0622903822942
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1067024115552
Kn_K35 L_L8 L_L10 0.9903192795416
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_19 1 2 3 4 REF
C_C1 1 REF 271.42032848299pf
C_C2 1 3 140.60434956805pf
C_C3 2 4 426.428669995pf
C_C4 3 REF 1.3633086349545pf
R_R1 1 REF -3.093746466922
R_R2 1 2 0.0211704829493
R_R3 1 3 -5.967267473815
R_R4 1 4 1.9657525656405
R_R5 2 REF 3.094912867641
R_R6 2 3 5.9695274083532
R_R7 2 4 -1.966497032609
R_R8 3 REF -872.3289396349
R_R9 3 4 554.97586882622
R_R10 4 REF 287.36879425514
L_L1 1 5 0.2144832602077nh
R_RL1 5 REF 1.0e-5
L_L2 1 6 0.002909799629nh
R_RL2 6 2 -0.016478259607
L_L3 1 7 0.3207854550984nh
R_RL3 7 3 -7.981885792e-4
L_L4 1 8 0.1267132310514nh
R_RL4 8 4 -0.014198382394
L_L5 2 9 0.2144925190828nh
R_RL5 9 REF -0.016577901192
L_L6 2 10 0.3207892623168nh
R_RL6 10 3 -0.010009064408
L_L7 2 11 0.1267100328168nh
R_RL7 11 4 -8.446768343e-5
L_L8 3 12 0.5324533877076nh
R_RL8 12 REF -8.205778878e-4
L_L9 3 13 0.3850108864662nh
R_RL9 13 4 -8.248534171e-3
L_L10 4 14 0.3386550457737nh
R_RL10 14 REF -0.014290961057
Kn_K1 L_L1 L_L2 0.0580524740381
Kn_K2 L_L1 L_L5 0.9932168675477
Kn_K3 L_L1 L_L8 0.6305161488275
Kn_K4 L_L1 L_L10 0.7911107067102
Kn_K5 L_L2 L_L3 0.047558221335
Kn_K6 L_L2 L_L4 0.0758521064417
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.047682552974
Kn_K9 L_L2 L_L7 -0.07568650273
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.1549697456121
Kn_K13 L_L3 L_L5 0.812144772837
Kn_K14 L_L3 L_L6 0.995464597437
Kn_K15 L_L3 L_L7 0.147764749121
Kn_K16 L_L3 L_L8 0.5155675574901
Kn_K17 L_L3 L_L9 -0.823885887444
Kn_K18 L_L3 L_L10 0.6468843272631
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.1477446340532
Kn_K21 L_L4 L_L7 0.988518024886
Kn_K22 L_L4 L_L8 0.8203174175617
Kn_K23 L_L4 L_L9 0.4322314788818
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.6305106059945
Kn_K26 L_L5 L_L10 0.7911167419485
Kn_K27 L_L6 L_L7 0.1549722920259
Kn_K28 L_L6 L_L8 0.5155710935307
Kn_K29 L_L6 L_L9 -0.823890965267
Kn_K30 L_L6 L_L10 0.6468993857978
Kn_K31 L_L7 L_L8 0.8203382644089
Kn_K32 L_L7 L_L9 0.4322210751565
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.6391873170846
Kn_K35 L_L8 L_L10 0.5723660442054
Kn_K36 L_L9 L_L10 0.6730977729623
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_20 1 2 3 4 REF
C_C1 1 2 32514.295912165pf
C_C2 1 4 350.10474843159pf
C_C3 2 REF 222.76340523956pf
C_C4 2 3 115.34023408482pf
C_C5 3 4 1.0892390327399pf
C_C6 4 REF 2.7878575221648pf
R_R1 1 REF 3.6867982175798
R_R2 1 2 -0.025228519598
R_R3 1 3 7.1109915070534
R_R4 1 4 -2.342560943942
R_R5 2 REF -3.688197843036
R_R6 2 3 -7.113686420684
R_R7 2 4 2.3434486257411
R_R8 3 4 -660.0553049957
R_R9 4 REF -342.4638646943
L_L1 1 5 0.2167270466503nh
R_RL1 5 REF 1.0e-5
L_L2 1 6 0.0013813100989nh
R_RL2 6 2 0.001647316939
L_L3 1 7 0.3243763527537nh
R_RL3 7 3 8.27761463e-5
L_L4 1 8 0.1264788040945nh
R_RL4 8 4 0.0014168701436
L_L5 2 9 0.2151685298395nh
R_RL5 9 REF 0.0016497284256
L_L6 2 10 0.3235131808773nh
R_RL6 10 3 9.9818596629e-4
L_L7 2 11 0.1278055550627nh
R_RL7 11 4 1.0e-5
L_L8 3 12 0.5393273360195nh
R_RL8 12 REF 8.3236720823e-5
L_L9 3 13 0.3879996987264nh
R_RL9 13 4 8.2186962227e-4
L_L10 4 14 0.3403770407106nh
R_RL10 14 REF 0.0014190905593
Kn_K1 L_L1 L_L2 0.0849551312706
Kn_K2 L_L1 L_L5 0.9968082398916
Kn_K3 L_L1 L_L8 0.6313165539527
Kn_K4 L_L1 L_L10 0.7927437810789
Kn_K5 L_L2 L_L3 0.0530170964984
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.012255302962
Kn_K8 L_L2 L_L7 -0.101907934425
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 -0.047297428646
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.1551599146362
Kn_K13 L_L3 L_L5 0.8147860458448
Kn_K14 L_L3 L_L6 0.9978688707596
Kn_K15 L_L3 L_L7 0.1488407412399
Kn_K16 L_L3 L_L8 0.5160349785306
Kn_K17 L_L3 L_L9 -0.825754928832
Kn_K18 L_L3 L_L10 0.6479847827337
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.155231909537
Kn_K21 L_L4 L_L7 0.9945813906319
Kn_K22 L_L4 L_L8 0.8264086578848
Kn_K23 L_L4 L_L9 0.4290742615052
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.6325782186189
Kn_K26 L_L5 L_L10 0.7902788875403
Kn_K27 L_L6 L_L7 0.1556981497675
Kn_K28 L_L6 L_L8 0.515890606602
Kn_K29 L_L6 L_L9 -0.823765241805
Kn_K30 L_L6 L_L10 0.644501253249
Kn_K31 L_L7 L_L8 0.8207837407801
Kn_K32 L_L7 L_L9 0.4317584300611
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.641548060058
Kn_K35 L_L8 L_L10 0.5738098496185
Kn_K36 L_L9 L_L10 0.6765166991511
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_21 1 2 3 4 REF
C_C1 1 2 158.32360044908pf
C_C2 1 4 1.7492795712345pf
C_C3 2 REF 1.5252367729917pf
C_C4 2 3 0.6074099197749pf
C_C5 3 REF 0.3973486001123pf
C_C6 4 REF 0.4051157464854pf
R_R1 1 2 -99.9166097527
L_L1 1 5 62.161483798995nh
R_RL1 5 REF 0.0149579563161
L_L2 1 6 0.2135140126705nh
R_RL2 6 2 0.0113303993779
L_L3 1 7 19.82900527946nh
R_RL3 7 3 0.0068812532774
L_L4 1 8 19.119247710171nh
R_RL4 8 4 0.0071198768645
L_L5 2 9 61.527105344654nh
R_RL5 9 REF 0.0278157636683
L_L6 2 10 19.981967948569nh
R_RL6 10 3 3.0770799767e-4
L_L7 2 11 19.28044833125nh
R_RL7 11 4 2.6160489708e-4
L_L8 3 12 81.575497114235nh
R_RL8 12 REF 0.0235104604951
L_L9 3 13 1.2952609497638nh
R_RL9 13 4 -1.839456783e-5
L_L10 4 14 80.851949964601nh
R_RL10 14 REF 0.0238029932536
Kn_K1 L_L1 L_L2 0.1163688931835
Kn_K2 L_L1 L_L5 0.9982869076372
Kn_K3 L_L1 L_L8 0.8700189561687
Kn_K4 L_L1 L_L10 0.8738059459731
Kn_K5 L_L2 L_L3 0.0147139790358
Kn_K6 L_L2 L_L4 0.0129459608784
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088712339107
Kn_K9 L_L2 L_L7 -0.092341920539
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9669046139272
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9946441468329
Kn_K15 L_L3 L_L7 0.9613056596571
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.197815032723
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9618584371338
Kn_K21 L_L4 L_L7 0.9944484578213
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.058828174912
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8689359053981
Kn_K26 L_L5 L_L10 0.8726591600505
Kn_K27 L_L6 L_L7 0.9671645510537
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.196246798501
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0594059693342
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0981988817133
Kn_K35 L_L8 L_L10 0.9920354456797
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_22 1 2 3 4 REF
C_C1 1 REF 0.1549855526605pf
C_C2 1 2 44.112593423768pf
C_C3 1 4 0.520679830382pf
C_C4 2 REF 0.7510191082553pf
C_C5 2 3 0.2010787029211pf
C_C6 3 REF 0.3992464652507pf
C_C7 4 REF 0.3957589730806pf
R_R1 1 2 -973.0164192459
L_L1 1 5 0.6183531399357nh
R_RL1 5 2 0.0082005357971
L_L2 1 6 72.948163244373nh
R_RL2 6 3 0.0127031680068
L_L3 1 7 72.048969359294nh
R_RL3 7 4 0.0127575272369
L_L4 2 8 73.801104126582nh
R_RL4 8 3 -1.220728273e-3
L_L5 2 9 72.909713654599nh
R_RL5 9 4 -1.190106415e-3
L_L6 3 10 1.3063263607803nh
R_RL6 10 4 -4.661360215e-5
Kn_K1 L_L1 L_L2 -0.017464246555
Kn_K2 L_L1 L_L3 -0.018157439322
Kn_K3 L_L1 L_L4 -0.108897963957
Kn_K4 L_L1 L_L5 -0.11014272242
Kn_K5 L_L2 L_L3 0.9910097308841
Kn_K6 L_L2 L_L4 0.9958031492243
Kn_K7 L_L2 L_L5 0.9867509526795
Kn_K8 L_L2 L_L6 -0.112966071787
Kn_K9 L_L3 L_L4 0.9869284340196
Kn_K10 L_L3 L_L5 0.9957518344435
Kn_K11 L_L3 L_L6 0.0209829245357
Kn_K12 L_L4 L_L5 0.9911142037906
Kn_K13 L_L4 L_L6 -0.111914011707
Kn_K14 L_L5 L_L6 0.0212584924062
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_23 1 2 3 4 REF
C_C1 1 REF 0.3326689286042pf
C_C2 1 2 18.777968317909pf
C_C3 1 3 0.0236019936133pf
C_C4 1 4 0.2479834264297pf
C_C5 2 REF 0.5849853312384pf
C_C6 2 3 0.1095026597942pf
C_C7 3 REF 0.3987806839457pf
C_C8 4 REF 0.3926916193057pf
L_L1 1 5 0.9790992201352nh
R_RL1 5 2 2.9589592026e-4
L_L2 3 6 1.3076371464508nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_24 1 2 3 4 REF
C_C1 1 REF 0.3970960283629pf
C_C2 1 2 10.386233110015pf
C_C3 1 3 0.0583391459014pf
C_C4 1 4 0.1561235698634pf
C_C5 2 REF 0.5348276836631pf
C_C6 2 3 0.0777393806013pf
C_C7 3 REF 0.3976419948882pf
C_C8 4 REF 0.3905521927884pf
L_L1 1 5 1.4032807743585nh
R_RL1 5 2 4.6562227098e-5
L_L2 3 6 1.3055384790122nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_25 1 2 3 4 REF
C_C1 1 REF 0.4296607257473pf
C_C2 1 2 6.9051689190161pf
C_C3 1 3 0.0774284006873pf
C_C4 1 4 0.1164497265815pf
C_C5 2 REF 0.5202230411914pf
C_C6 2 3 0.0623903791815pf
C_C7 2 4 0.0332408644437pf
C_C8 3 REF 0.396018202008pf
C_C9 4 REF 0.3883492611662pf
L_L1 1 5 1.7874884991742nh
R_RL1 5 2 4.0777243424e-4
L_L2 3 6 1.3030427898431nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_26 1 2 3 4 REF
C_C1 1 REF 0.4441364056128pf
C_C2 1 2 5.7828593486538pf
C_C3 1 3 0.0872849288279pf
C_C4 1 4 0.1023531862758pf
C_C5 2 REF 0.5200020522322pf
C_C6 2 3 0.05549999826pf
C_C7 2 4 0.0504842102236pf
C_C8 3 REF 0.3946806338117pf
C_C9 4 REF 0.3866966770106pf
L_L1 1 5 1.9021962863463nh
R_RL1 5 2 8.9127582495e-5
L_L2 3 6 1.3019492691591nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param38_26

